US08048887B2
To a 25 mL flask was added 4-(2-amino-2-oxoethoxy)-5-(2-(4-fluorophenyl)-3-(methyl carbamoyl)benzofuran-5-yl)-2-methoxybenzoic acid (48.8 mg, 0.099 mmol), DMF (2 mL), N-ethyl-N-diisopropylpropan-2-amine (0.069 mL, 0.396 mmol), 1-(pyridin-2-yl)cyclopropanamine (19.94 mg, 0.149 mmol) and finally HATU (2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethyl isouronium hexafluorophosphate(V), 151 mg, 0.396 mmol). The flask was sealed with a septa, placed under N2 and stirred at room temperature overnight. The crude product was purified using a Shimadzu preparative HPLC employing acetonitrile/water/trifluoroacetic acid where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 19×150 mm column at a gradient of 20-100% B and a flow rate of 25 mL/min. over 22 minutes with a 8 minute hold. The solvent was removed giving 53.0 mgs (87% yield) of 5-(2-(2-amino-2-oxoethoxy)-4-methoxy-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a yellow powder. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% trifluoroacetic acid with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (400 MHz, DMF-d7) δ ppm 1.46-1.53 (m, 2H), 1.69-1.76 (m, 2H), 2.96 (d, J=4.77 Hz, 3H), 4.16 (s, 3H), 4.82 (s, 2H), 7.04 (s, 1H), 7.34 (br. s., 1H), 7.36-7.48 (m, 3H), 7.52 (br. s., 1H), 7.66-7.78 (m, 3H), 7.92-8.01 (m, 2H), 8.03 (d, J=2.76 Hz, 1H), 8.08-8.14 (m, 2H), 8.36 (d, J=4.77 Hz, 1H), 8.57-8.62 (m, 1H), 8.94 (s, 1H). LCMS m/z 609.5 (M+H), Rt=2.030 min. HPLC (Sunfire C18) Rt=5.800 min, 99.4% purity and (XBridge phenyl C18) Rt=9.546 min., 99.7% purity.

reactant | 4-(2-amino-2-oxoethoxy)-5-(2-(4-fluorophenyl)-3-(methyl carbamoyl)benzofuran-5-yl)-2-methoxybenzoic acid | 0.099 mmol, 48.8 mg | NC(COC1=CC(=C(C(=O)O)C=C1C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)OC)=O | C26H21FN2O7
reactant | 1-(pyridin-2-yl)cyclopropanamine | 0.149 mmol, 19.94 mg | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | HATU | 0.396 mmol, 151 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(2-(2-amino-2-oxoethoxy)-4-methoxy-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 53.0 mgs, 87% yield | NC(COC1=C(C=C(C(=C1)OC)C(NC1(CC1)C1=NC=CC=C1)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)=O | C34H29FN4O6
